US07049312B1
Synthesis of (Z)-2-{{5-[2-(Piperidin-1-yl)ethyloxy]indol-3-yl}methylene}-2H-1,4-benzothiazin-3(4H)-one
To a solution of (Z)-2[(5-hydroxyindol-3-yl)methylene]-2H-1,4-benzothiazin-3(4H)-one (1.00 g, 3.24 mmol) and 1,1′-(azodicarbonyl)dipiperidine (1.23 g, 4.87 mmol) in dry tetrahydrofurane-(40 ml), tributylphosphine (0.98 g, 4.87 mmol) was added under nitrogen atmosphere keeping the mixture at 0–5° C. After 5 min N-(2-hydroxyethyl)piperidine (0.63 g, 4.88 mmol) was added at the same temperature. The cooling bath was removed and the mixture stirred at room temperature for 48 h. Then the solvent was removed under reduced pressure and the residue chromatographed (silica gel, eluent, ethyl acetate:ethanol (90:10) to (80:20)) to yield 0.2 g (22%) of the entitled product.

reactant | (Z)-2[(5-hydroxyindol-3-yl)methylene]-2H-1,4-benzothiazin-3(4H)-one | 3.24 mmol, 1.00 g | OC=1C=C2C(=CNC2=CC1)\C=C\1/SC2=C(NC1=O)C=CC=C2 | C17H12N2O2S
reactant | 1,1′-(azodicarbonyl)dipiperidine | 4.87 mmol, 1.23 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 4.87 mmol, 0.98 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | N-(2-hydroxyethyl)piperidine | 4.88 mmol, 0.63 g | OCCN1CCCCC1 | C7H15NO
solvent | tetrahydrofurane- | 40 ml | O1CCCC1 | C4H8O
product | (Z)-2-{{5-[2-(Piperidin-1-yl)ethyloxy]indol-3-yl}methylene}-2H-1,4-benzothiazin-3(4H)-one | 0.2 g, 22% | N1(CCCCC1)CCOC=1C=C2C(=CNC2=CC1)\C=C\1/SC2=C(NC1=O)C=CC=C2 | C24H25N3O2S
